US07511144B2
Into a cooled (0° C.) solution of 1.92 g (8.58 mmol) of diethylphosphonoacetic acid ethyl ester in tetrahydrofuran-methanol (3.5 mL+2.8 mL) was dropped 1.65 mL (8.58 mmol) of 28% sodium methoxide in methanol solution, and stirred for 10 minutes. Into this solution was dropped a solution of 1.0 g (7.80 mmol) of 4-methyltetrahydropyran-4-carbaldeyhde obtained in the above 2) in tetrahydrofuran (1.5 mL), and then stirred for 5 hours at room temperature. After the reaction was completed, the reaction mixture was poured into ice water and extracted with ether. The organic layer was washed with water (three times) and saturated brine successively, dried over anhydrous magnesium sulfate and concentrated under a reduced pressure. The obtained residue was purified by medium pressure liquid column chromatography on silica gel (developing solvent; hexane-ethyl acetate) to obtain 0.93 g (yield 64.7%) of 3-(4-methyltetrahydropyran-4-yl)acrylic acid methyl ester as colorless liquid. Its physical property is shown below.

reactant | diethylphosphonoacetic acid ethyl ester | 8.58 mmol, 1.92 g | C(C)OC(CP(=O)(OCC)OCC)=O | C8H17O5P
reactant | sodium methoxide | 8.58 mmol, 1.65 mL | C[O-].[Na+]
reactant | tetrahydrofuran-methanol | 3.5 mL | O1C(CCC1)CO | C5H10O2
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | 3-(4-methyltetrahydropyran-4-yl)acrylic acid methyl ester | 0.93 g, yield 64.7% | COC(C=CC1(CCOCC1)C)=O | C10H16O3
